US04808580
To a solution of 30.0 g sodium hydroxide in 30 ml of water and 180 ml of ethylene glycol was added 18.0 g (0.089 mol) of naphtho[1,2-d]thiazol-2-amine. The mixture was stirred and heated at reflux under nitrogen for 20 hours then diluted with 100 ml of water. After cooling to room temperature the mixture was extracted with ether (4×95 ml). The aqueous solution was cooled in an ice-bath and neutralized with acetic acid. The aqueous suspension was extracted with ether (3×175 ml). The combined ether solutions were washed with water and dried (MgSO4). Removal of the solvent gave a residue to which heptane (3×50 ml) was added and distilled off under reduced pressure to give 10.5 g (67%) of 1-aminonaphthalene-2-thiol. This compound is sensitive to air, and therefore was used immediately for the condensation with the glycidate. For analysis a sample of this compound was distilled at 110°-115° (0.05 mm), mp 36°-37°.

reactant | sodium hydroxide | 30.0 g | [OH-].[Na+]
reactant | naphtho[1,2-d]thiazol-2-amine | 0.089 mol, 18.0 g | N1=C(SC2=C1C1=CC=CC=C1C=C2)N | C11H8N2S
solvent | water | 30 ml | O | H2O
solvent | ethylene glycol | 180 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 1-aminonaphthalene-2-thiol | 10.5 g, 67% | NC1=C(C=CC2=CC=CC=C12)S | C10H9NS
